US07863332B2
In a manner similar to that of Example (25a), by reaction of 500 μL (4.4 mmol, 3.3 eq) of 1-iodobutane and 530 mg (1.33 mmol, 1 eq) of methyl 3-[2-hydroxy-3′-(1-methyl-3-pentylureido)biphenyl-4-yl]propanoate in 10 ml of methyl ethyl ketone in the presence of 500 mg (3.61 mmol, 2.7 eq) of potassium carbonate at 80° C. for 16 hours, methyl 3-[2-butoxy-3′-(1-methyl-3-pentylureido)biphenyl-4-yl]propanoate is obtained in oil form and is used in the following reaction without further purification.

reactant | 1-iodobutane | 4.4 mmol, 500 μL, 3.3 eq | ICCCC | C4H9I
reactant | methyl 3-[2-hydroxy-3′-(1-methyl-3-pentylureido)biphenyl-4-yl]propanoate | 1.33 mmol, 530 mg, 1 eq | OC1=C(C=CC(=C1)CCC(=O)OC)C1=CC(=CC=C1)N(C(=O)NCCCCC)C | C23H30N2O4
reactant | potassium carbonate | 3.61 mmol, 500 mg, 2.7 eq | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 10 ml | C(C)C(=O)C | C4H8O
product | methyl 3-[2-butoxy-3′-(1-methyl-3-pentylureido)biphenyl-4-yl]propanoate | C(CCC)OC1=C(C=CC(=C1)CCC(=O)OC)C1=CC(=CC=C1)N(C(=O)NCCCCC)C | C27H38N2O4
